US06291432B1
(R)-N-(2-methylbenzyl)-1,3-thiazolidine-4-carboxamide (H-Thz-NHBzl(2-Me))
EDC.HCl (6.30 g, 33.0 mmol) was added to a solution of Boc-Thz-OH (6.99 g, 30 mmol), 2-methylbenzylamine (4.46 ml, 36.0 mmol), and HOBt (4.05 g, 30 mmol) in CH2Cl2 (100 ml) while cooling with ice, and the mixture was stirred overnight. The reaction mixture was washed with 3% Na2CO3 (twice), 1NHCl (once), and 5% NaCl (once) and dried over MgSO4. After filtration and concentration, the residue was dissolved in CH2Cl2 (100 ml). After the addition of methanesulfonic acid MSA (5.86ml, 90mmol), the mixture was stirred for two hours. H2O (150 ml) was added to the reaction mixture and the aqueous layer adjusted to pH 8 with Na2CO3 was extracted with CH2Cl2 (100 ml). The extract was washed with 5% NaCl and dried over MgSO4. After filtration and concentration, the residue was recrystallized from AcOEt/n-hexane to obtain the title compound (6.04 g, 85%).

reactant | EDC.HCl | 33.0 mmol, 6.30 g | CCN=C=NCCCN(C)C.Cl
reactant | Boc-Thz-OH | 30 mmol, 6.99 g | N1([C@H](C(=O)O)CSC1)C(=O)OC(C)(C)C | C9H15NO4S
reactant | 2-methylbenzylamine | 36.0 mmol, 4.46 ml | CC1=C(CN)C=CC=C1 | C8H11N
reactant | HOBt | 30 mmol, 4.05 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | CH2Cl2 | 100 ml | C(Cl)Cl | CH2Cl2
product | (R)-N-(2-methylbenzyl)-1,3-thiazolidine-4-carboxamide | 6.04 g, 85% | CC1=C(CNC(=O)[C@H]2NCSC2)C=CC=C1 | C12H16N2OS
